"SLiCAP CMOS18 library compatible with log108.l"

* CMOS18 technology parameters for EKV models (SI units)
* Manual fit to "nch" and "pch" devices in BSIM 3.2 log018.l
* Good match on gm(ID) fT(ID) and noise 
* over a wide current range and geometry range
********************************************************

.param
+ TOX_N18        = 4.2n  ; oxide thickness [m]
+ Vth_N18        = 0.44 ; threshold voltage [V]
+ N_s_N18        = 1.42 ; substrate factor [-]
+ Theta_N18      = 0.35 ; vertical field mobility reduction coefficient [1/V]
+ E_CRIT_N18     = 10M ; lateral field strength for velocity saturation [V/m]
+ u_0_N18        = 62m ; zero field carrier mobility [m^2/V/s]
+ CGBO_N18       = 1p    ; gate-bulk overlap capacitance [F/m]
+ CGSO_N18       = 300p  ; gate-source and gate-drain overlap capacitance [F/m]
+ CJB0_N18       = 1m    ; source/bulk drain/bulk capacitance [F/m^2]
+ LDS_N18        = 180n  ; length of drain and source [m]
+ KF_N18         = 6e-27 ; flicker noise (1/f noise) coefficient, zero for f_ell=0 [C/m^2]
+ AF_N18         = 0.82  ; flicker noise exponent [-]
+ V_KF_N18       = 2     ; flicker noise voltage dependency factor [V]
+ VAL_N18        = 23M   ; Early voltage per unit of length [V/m]
+ DVTDIBL_N18    = -0.024; dVth/dVDS
+ DVTIDBLEXP_N18 = 0.75  ; exponent of dVth/dVDS
+ L_min_N18      = 180n  ; minimum channel length
+ C_OX_N18       = {epsilon_0 * epsilon_SiO2 / TOX_N18}; oxide capacitance per unit of area [F/m^2]
+ I_0_N18        = {2*N_s_N18*u_0_N18*C_OX_N18*U_T^2}  ; technology current [A]

.param
+ TOX_P18        = 4.1n      ; oxide thickness [m]
+ Vth_P18        = -0.425  ; threshold voltage [V]
+ N_s_P18        = 1.35    ; substrate factor [-]
+ Theta_P18      = 0.47    ; vertical field mobility reduction factor [1/V]
+ E_CRIT_P18     = 1G      ; lateral field strength for velocity saturation [V/m]
+ u_0_P18        = 10m     ; zero field carrier mobility [m^2/V/s]
+ CGBO_P18       = 1p      ; gate-bulk overlap capacitance [F/m]
+ CGSO_P18       = 350p    ; gate-source and gate-drain overlap capacitance [F/m]
+ CJB0_P18       = 1m      ; source/bulk drain/bulk capacitance [F/m^2]
+ LDS_P18        = 180n    ; length of drain and source [m]
+ KF_P18         = 3.2e-28 ; flicker noise (1/f noise) coefficient, zero for f_ell=0 [C^2/m^2]
+ AF_P18         = 1.25    ; flicker noise exponent [-]
+ V_KF_P18       = 0.2     ; flicker noise voltage dependency factor [V]
+ VAL_P18        = 150M    ; Early voltage per unit of length [V/m]
+ DVTDIBL_P18    = -0.02   ; dVth/dVDS
+ DVTIDBLEXP_P18 = 0.8     ; exponent of dVth/dVDS
+ L_min_P18      = 180n    ; minimum channel length
+ C_OX_P18       = {epsilon_0 * epsilon_SiO2 / TOX_P18}; oxide capacitance per unit of area [F/m^2]
+ I_0_P18        = {2*N_s_P18*u_0_P18*C_OX_P18*U_T^2} ; technology current [A]

* Semiconductor subcircuit models EKV
*************************************
.subckt CMOS18N drain gate source bulk W={W} L={L} ID={ID}
* EKV model of transistor without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating in forward saturation region
* 
M1 drain gate source bulk CMOS18N

.model CMOS18N M 
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT = {1/((4*N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ g_m     = {ID/(N_s_N18*U_T*sqrt(IC*(1+(IC/IC_CRIT))+0.5*sqrt(IC*(1+(IC/IC_CRIT)))+1))}
+ g_o     = {g_CLM + g_DIBL}
+ g_CLM   = {ID/(VAL_N18*(L+2*L_min_N18))} ; 
+ g_DIBL  = {-g_m*DVTDIBL_N18*(L_min_N18/L)^DVTIDBLEXP_N18}
+ g_b     = {(N_s_N18-1)*g_m*0.7}
+ c_gs    = {(2-x)/3*W*L*C_OX_N18 + CGSO_N18*W} 
+ c_dg    = {CGSO_N18*W}
+ c_gb    = {W*L*C_OX_N18*(1+x)/3*(N_s_N18-1)/N_s_N18+CGBO_N18*2*L}
+ c_db    = {CJB0_N18*W*LDS_N18}
+ c_sb    = {CJB0_N18*W*LDS_N18}
+ IC_i    = {ID*L/W/I_0_N18}              ; Initial estimate of inversion coefficient
+ IC      = {IC_i*(1+(IC_i/4/IC_CRIT)**0.8)**1.25} ; Correction for short-channel effects
+ V_GS    = {2*N_s_N18*U_T*ln(exp(sqrt(IC))-1) + Vth_N18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ x       = {(sqrt(IC + 0.25) + 1.5)/(sqrt(IC + 0.25) + 0.5)^2}
.ends

.subckt CMOS18N_V drain gate source bulk W={W} L={L} VD={VD} VG={VG} VS={VS}
* EKV model of transistor without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating voltages with respect to the bulk
* Assumes forward operation: VDS > 0
* 
M1 drain gate source bulk CMOS18N_V

.model CMOS18N_V M
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
* See EKV2.6 model manual
+ V_A     = {VAL_N18*L}
+ C_gso   = {CGSO_N18*W}
+ C_gdo   = {CGSO_N18*W}
+ C_gbo   = {CGBO_N18*2*L}
+ C_sb0   = {CJB0_N18*W*LDS_N18}
+ C_db0   = {CJB0_N18*W*LDS_N18}
+ IC_CRIT = {1/((4*N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ V_effF  = {(VG-Vth_N18-N_s_N18*VS)}
+ V_effR  = {(VG-Vth_N18-N_s_N18*VD)}
+ IC_F    = {(ln(1+exp(V_effF/2/N_s_N18/U_T)))^2}
+ IC_R    = {(ln(1+exp(V_effR/2/N_s_N18/U_T)))^2}
+ x_f     = {sqrt(1/4+IC_F)}
+ x_r     = {sqrt(1/4+IC_R)}
+ I_DSF   = {W/L*I_0_N18*(IC_F)*(1+(VD-VS)/V_A)/(1+(Theta_N18+1/L/E_CRIT_N18)*2*U_T*sqrt(IC_F))}
+ I_DSR   = {W/L*I_0_N18*(IC_R)*(1+(VS-VD)/V_A)/(1+(Theta_N18+1/L/E_CRIT_N18)*2*U_T*sqrt(IC_R))}
+ I_DS    = {I_DSF-I_DSR}
+ g_mF    = {I_DSF/(N_s_N18*U_T*sqrt(IC_F*(1+IC_F/IC_CRIT)+0.5*sqrt(IC_F*(1+IC_F/IC_CRIT))+1))}
+ g_mR    = {I_DSR/(N_s_N18*U_T*sqrt(IC_R*(1+IC_R/IC_CRIT)+0.5*sqrt(IC_R*(1+IC_R/IC_CRIT))+1))}
+ g_m     = {g_mF-g_mR}
+ g_o     = {I_DSF/(V_A+VD-VS)+g_mR} ; Only forward region; DIBL not modeled!
+ g_b     = {(N_s_N18-1)*g_m}
+ c_gsi   = {2/3*(1-(x_r^2+x_r+0.5*x_f)/(x_f+x_r)^2)*C_OX_N18*W*L} 
+ c_dgi   = {2/3*(1-(x_f^2+x_f+0.5*x_r)/(x_f+x_r)^2)*C_OX_N18*W*L}
+ c_gs    = {c_gsi+C_gso}
+ c_dg    = {c_dgi+C_gdo}
+ c_gb    = {(N_s_N18-1)/N_s_N18*(C_OX_N18*W*L-c_gsi-c_dgi)+C_gbo}
+ c_db    = {(N_s_N18-1)*c_dgi+C_db0}
+ c_sb    = {(N_s_N18-1)*c_gsi+C_sb0}
+ c_iss   = {c_gs+c_dg+c_gb}
+ f_T     = {g_m/2/pi/c_iss}
+ V_GS    = {VG-VS}
.ends

.subckt CMOS18ND drain1 drain2 gate1 gate2 W={W} L={L} ID={ID}
* EKV model of differential pair without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating in forward saturation region, fully differential!
* This means: no net current to bulk!
* ID is operating current of single transistor: diff-pair
* tail current is 2*ID
M1 drain1 drain2 gate1 gate2 CMOS18ND

.model CMOS18ND MD
+ cgg     = {c_gs/2+c_gb/2} 
+ gm      = {g_m/2} 
+ go      = {g_o/2} 
+ cdg     = {c_dg}
+ cdd     = {c_db/2}
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT = {1/(4*(N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ g_m     = {ID/(N_s_N18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ g_o     = {g_CLM + g_DIBL}
+ g_CLM   = {ID/(VAL_N18*L*sqrt(L/L_min_N18))} ; 
+ g_DIBL  = {-g_m*DVTDIBL_N18*(L_min_N18/L)^DVTIDBLEXP_N18}
+ g_b     = {(N_s_N18-1)*g_m*0.7}
+ c_gs    = {(2-x)/3*W*L*C_OX_N18 + CGSO_N18*W} 
+ c_dg    = {CGSO_N18*W}
+ c_gb    = {W*L*C_OX_N18*(1+x)/3*(N_s_N18-1)/N_s_N18+CGBO_N18*2*L}
+ c_db    = {CJB0_N18*W*LDS_N18}
+ IC_i    = {ID*L/W/I_0_N18}                ; Initial estimate of inversion coefficient
+ IC      = {IC_i*(1+(IC_i/4/IC_CRIT)**0.8)**1.25} ; Correction for short-channel effects
+ V_GS    = {2*N_s_N18*U_T*ln(exp(sqrt(IC))-1) + Vth_N18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ x       = {(sqrt(IC + 0.25) + 1.5)/(sqrt(IC + 0.25) + 0.5)^2}
.ends

.subckt CMOS18P drain gate source bulk W={W} L={L} ID={ID}
* EKV model of transistor without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating in forward saturation region
M1 drain gate source bulk CMOS18P

.model CMOS18P M
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT = {1/(4*(N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ g_m     = {-ID/(N_s_P18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ g_o     = {g_CLM + g_DIBL}
+ g_CLM   = {-ID/(VAL_P18*L)} ; 
+ g_DIBL  = {-g_m*DVTDIBL_P18*(L_min_P18/L)^DVTIDBLEXP_P18}
+ g_b     = {(N_s_P18-1)*g_m}
+ c_gs    = {(2-x)/3*W*L*C_OX_P18 + CGSO_P18*W} 
+ c_dg    = {CGSO_P18*W}
+ c_gb    = {W*L*C_OX_P18*(1+x)/3*(N_s_P18-1)/N_s_P18+CGBO_P18*2*L}
+ c_db    = {CJB0_P18*W*LDS_P18}
+ c_sb    = {CJB0_P18*W*LDS_P18}
+ IC      = {-ID*L/W/I_0_P18} ; Inversion coefficient
+ V_GS    = {-2*N_s_P18*U_T*ln(exp(sqrt(IC*(1+(IC/4/IC_CRIT)**0.9)**(1/0.9)))-1)+Vth_P18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ x       = {(sqrt(IC + 0.25) + 1.5)/(sqrt(IC + 0.25) + 0.5)^2}
.ends

.subckt CMOS18P_V drain gate source bulk W={W} L={L} VD={-VD} VG={-VG} VS={-VS}
* EKV model of transistor without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating voltages with respect to the bulk
* Assumes forward operation: VDS < 0
* All voltages should have negavtive values
M1 drain gate source bulk CMOS18P_V
.model CMOS18P_V M
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
* See EKV2.6 model manual
* gm calculated from derivative of ID(V_GS) curve
+ V_A     = {VAL_P18*L}
+ C_gso   = {CGSO_P18*W}
+ C_gdo   = {CGSO_P18*W}
+ C_gbo   = {CGBO_P18*2*L}
+ C_sb0   = {CJB0_P18*W*LDS_P18}
+ C_db0   = {CJB0_P18*W*LDS_P18}
+ IC_CRIT = {1/((4*N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ V_effF  = {(VG-Vth_P18-N_s_P18*VS)}
+ V_effR  = {(VG-Vth_P18-N_s_P18*VD)}
+ IC_F    = {(ln(1+exp(-V_effF/2/N_s_P18/U_T)))^2}
+ IC_R    = {(ln(1+exp(-V_effR/2/N_s_P18/U_T)))^2}
+ x_f     = {sqrt(1/4+IC_F)}
+ x_r     = {sqrt(1/4+IC_R)}
+ I_DSF   = {-W/L*I_0_P18*(IC_F)*(1+(VS-VD)/V_A)/(1+(Theta_P18+1/L/E_CRIT_P18)*2*U_T*sqrt(IC_F))}
+ I_DSR   = {-W/L*I_0_P18*(IC_R)*(1+(VD-VS)/V_A)/(1+(Theta_P18+1/L/E_CRIT_P18)*2*U_T*sqrt(IC_R))}
+ I_DS    = {I_DSF-I_DSR}
+ g_mF    = {-I_DSF/(N_s_P18*U_T*sqrt(IC_F*(1+IC_F/IC_CRIT)+0.5*sqrt(IC_F*(1+IC_F/IC_CRIT))+1))}
+ g_mR    = {-I_DSR/(N_s_P18*U_T*sqrt(IC_R*(1+IC_R/IC_CRIT)+0.5*sqrt(IC_R*(1+IC_R/IC_CRIT))+1))}
+ g_m     = {g_mF-g_mR}
+ g_o     = {-I_DSF/(V_A+VS-VD) + g_mR}; forward region, no DIBL
+ g_b     = {(N_s_P18-1)*g_m}
+ c_gsi   = {2/3*(1-(x_r^2+x_r+0.5*x_f)/(x_f+x_r)^2)*C_OX_P18*W*L} 
+ c_dgi   = {2/3*(1-(x_f^2+x_f+0.5*x_r)/(x_f+x_r)^2)*C_OX_P18*W*L}
+ c_gs    = {c_gsi+C_gso}
+ c_dg    = {c_dgi+C_gdo}
+ c_gb    = {(N_s_P18-1)/N_s_P18*(C_OX_P18*W*L-c_gsi-c_dgi)+C_gbo}
+ c_db    = {(N_s_P18-1)*c_dgi+C_db0}
+ c_sb    = {(N_s_P18-1)*c_gsi+C_sb0}
+ c_iss   = {c_gs+c_dg+c_gb}
+ f_T     = {g_m/2/pi/c_iss}
.ends

.subckt CMOS18PD drain gate source bulk W={W} L={L} ID={ID}
* EKV model of differential pair without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating in forward saturation region, fully differential!
* This means: no net current to bulk!
* ID is operating current of single transistor: diff-pair
* tail current is 2*ID
* ID should be negative
M1 drain gate source bulk CMOS18PD

.model CMOS18PD MD
+ cgg     = {c_gs/2+c_gb/2} 
+ gm      = {g_m/2} 
+ go      = {g_o/2} 
+ cdg     = {c_dg}
+ cdd     = {c_db/2}
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT = {1/(4*(N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ g_m     = {-ID/(N_s_P18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ g_o     = {g_CLM + g_DIBL}
+ g_CLM   = {-ID/(VAL_P18*L)} ; 
+ g_DIBL  = {-g_m*DVTDIBL_P18*(L_min_P18/L)^DVTIDBLEXP_P18}
+ g_b     = {(N_s_P18-1)*g_m}
+ c_gs    = {(2-x)/3*W*L*C_OX_P18 + CGSO_P18*W} 
+ c_dg    = {CGSO_P18*W}
+ c_gb    = {W*L*C_OX_P18*(1+x)/3*(N_s_P18-1)/N_s_P18+CGBO_P18*2*L}
+ c_db    = {CJB0_P18*W*LDS_P18}
+ c_sb    = {CJB0_P18*W*LDS_P18}
+ IC      = {-ID*L/W/I_0_P18} ; Inversion coefficient
+ V_GS    = {-2*N_s_P18*U_T*ln(exp(sqrt(IC*(1+IC/4/IC_CRIT)))-1)+Vth_P18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ x       = {(sqrt(IC + 0.25) + 1.5)/(sqrt(IC + 0.25) + 0.5)^2}
.ends

.subckt CMOS18PN drain gate source bulk W_N={W_N} L_N={L_N} ID_N={ID_N} W_P={W_P} L_P={L_P} ID_P={ID_P}
* EKV model of push-pull-stage (complementary-parallel-stage) without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Both transistors operating in the forward saturation region
* ID_P should be negative
M1 drain gate source bulk CMOS18PN
.model CMOS18PN M
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT_N = {1/(4*(N_s_N18*U_T)*(Theta_N18+1/L_N/E_CRIT_N18))^2}
+ IC_CRIT_P = {1/(4*(N_s_P18*U_T)*(Theta_P18+1/L_P/E_CRIT_P18))^2}
+ g_m_N     = {ID_N/(N_s_N18*U_T*sqrt(IC_N*(1+IC_N/IC_CRIT_N)+0.5*sqrt(IC_N*(1+IC_N/IC_CRIT_N))+1))}
+ g_m_P     = {-ID_P/(N_s_P18*U_T*sqrt(IC_P*(1+IC_P/IC_CRIT_P)+0.5*sqrt(IC_P*(1+IC_P/IC_CRIT_P))+1))}
+ g_m       = {g_m_N + g_m_P}
+ g_b       = {0.7*g_m_N*(N_s_N18-1) + g_m_P*(N_s_P18-1)}
+ g_o       = {g_m_N*N_s_N18*U_T/(VAL_N18*L)+g_m_P*N_s_P18*U_T/(VAL_P18*L)}
+ c_gs      = {(2-x_N)/3*W_N*L_N*C_OX_N18 + CGSO_N18*N_P + (2-x_P)/3*W_P*L_P*C_OX_P18 + CGSO_P18*W_P} 
+ c_dg      = {CGSO_N18*W_N+CGSO_P18*W_P}
+ c_gb      = {W_N*L_N*C_OX_N18*(1+x_N)/3*(N_s_N18-1)/N_s_N18+CGBO_N18*2*L_N + W_P*L_P*C_OX_P18*(1+x_P)/3*(N_s_P18-1)/N_s_P18+CGBO_P18*2*L_P}
+ c_db      = {CJB0_N18*W_N*LDS_N18 + CJB0_P18*W_P*LDS_P18}
+ c_sb      = {CJB0_N18*W_N*LDS_N18 + CJB0_P18*W_P*LDS_P18}
+ IC_iN     = {ID_N*L_N/W_N/I_0_N18}            ; Initial estimate of inversion coefficient
+ IC_N      = {IC_iN*(1+(IC_iN/4/IC_CRIT)**0.8)**1.25} ; Correction for short-channel effects
+ IC_P      = {-ID_P*L_P/W_P/I_0_P18} ; Initial estimate of inversion coefficient
+ c_iss     = {c_gs+c_dg+c_gb}
+ f_T_PN    = {g_m/2/pi/c_iss}
+ x_N       = {(sqrt(IC_N + 0.25) + 1.5)/(sqrt(IC_N + 0.25) + 0.5)^2}
+ x_P       = {(sqrt(IC_P + 0.25) + 1.5)/(sqrt(IC_P + 0.25) + 0.5)^2}
+ V_GS_N    = {2*N_s_N18*U_T*ln(exp(sqrt(IC_iN))-1) + Vth_N18}
+ V_GS_P    = {-2*N_s_P18*U_T*ln(exp(sqrt(IC*(1+IC/4/IC_CRIT)))-1)+Vth_P18}
.ends

.subckt MN18_noise ext comm int ID={ID} IG={IG} W={W} L={L}
* intrinsic noise sources, gate resistance should be added externally
* CMOS18 N device: copy and modify this model for other devices
V1 ext 1 V value=0 noise={K_F/(C_OX_N18^2*W*L*f^AF_N18)} ; flicker noise
V2 1 int V value=0 noise={4*k*T*N_s_N18*Gamma/g_m}       ; channel noise
G1 int comm 1 int G value={s*c_iss}                      ; channel noise
I1 ext comm I value=0 noise={2*q*IG}                     ; gate shot noise
.param
* device equations MKV model saturated region
+ Gamma   = {(1/2 + 2/3*IC)/(1+IC)}
+ IC_CRIT = {1/((4*N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ g_m     = {ID/(N_s_N18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ c_gs    = {(2-x)/3*W*L*C_OX_N18 + CGSO_N18*W}
+ c_dg    = {CGSO_N18*W}
+ c_gb    = {W*L*C_OX_N18*(1+x)/3*(N_s_N18-1)/N_s_N18 + CGBO_N18*2*L}
+ c_db    = {CJB0_N18*W*LDS_N18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ IC_i    = {ID*L/W/I_0_N18}                ; Initial estimate of inversion coefficient
+ IC      = {IC_i*(1+(IC_i/IC_CRIT)**0.8)**1.25} ; Better fit with BSIM, whatever it's worth
+ V_GS    = {2*N_s_N18*U_T*ln(exp(sqrt(IC))-1) + Vth_N18}
+ K_F     = {KF_N18*(1+2*N_s_N18*U_T*sqrt(IC)/V_KF_N18)^2}
+ f_ell   = {(f_T*2*pi*K_F*((2-x)/3+(1+x)/3*(N_s_N18-1)/N_s_N18 )/(N_s_N18*Gamma*4*k*T*C_OX_N18))**(1/AF_N18)}
+ x       = {(sqrt(IC + 0.25) + 1.5)/(sqrt(IC + 0.25) + 0.5)^2}
.ends

.subckt MP18_noise ext comm int ID={ID} IG={IG} W={W} L={L}
* intrinsic noise sources, gate resistance should be added externally
* CMOS18 N device: copy and modify this model for other devices
V1 ext 1 V value=0 noise={K_F/(C_OX_P18^2*W*L*f^AF_P18)} ; flicker noise
V2 1 int V value=0 noise={4*k*T*N_s_P18*Gamma/g_m}       ; channel noise
G1 int comm 1 int G value={s*c_iss}                      ; channel noise
I1 ext comm I value=0 noise={2*q*IG}                     ; gate shot noise
.param
* device equations MKV model saturated region
+ Gamma   = {(1/2 + 2/3*IC)/(1+IC)}
+ IC_CRIT = {1/((4*N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ g_m     = {-ID/(N_s_P18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ c_gs    = {(2-x)/3*W*L*C_OX_P18 + CGSO_P18*W}
+ c_dg    = {CGSO_P18*W}
+ c_gb    = {W*L*C_OX_P18*(1+x)/3*(N_s_P18-1)/N_s_P18 + CGBO_P18*2*L}
+ c_db    = {CJB0_P18*W*LDS_P18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ IC      = {-ID*L/W/I_0_P18}            ; Initial estimate of inversion coefficient
+ VGS     = {-2*N_s_P18*U_T*ln(exp(sqrt(IC*(1+IC/4/IC_CRIT)))-1)+Vth_P18}
+ K_F     = {KF_P18*(1+2*N_s_P18*U_T*sqrt(IC)/V_KF_P18)^2}
+ f_ell   = {(f_T*2*pi*K_F*((2-x)/3+(1+x)/3*(N_s_P18-1)/N_s_P18 )/(N_s_P18*Gamma*4*k*T*C_OX_P18))**(1/AF_P18)}
+ x       = {(sqrt(IC + 0.25) + 1.5)/(sqrt(IC + 0.25) + 0.5)^2}
.ends

.subckt MN18_noisyNullor outP outN inP inN ID={ID} IG={IG} W={W} L={L}
* Nullor with input noise sources
* NMOS intrinsic noise sources, gate resistance should be added externally
* CMOS18 N device noise sources: copy and modify this model for other devices
N1 outP outN int inN N
V1 inP 1 V value=0 noise={chi*K_F/(C_OX_N18*c_iss*f^AF_N18)} ; flicker noise
V2 1 int V value=0 noise={4*k*T*N_s_N18*Gamma/g_m}       ; channel noise
G1 int inN 1 int G value={s*c_iss}                       ; gate-induced channel noise
I1 inP inN I value=0 noise={2*q*IG}                      ; gate shot noise
.param
* device equations MKV model saturated region
+ Gamma   = {(1/2 + 2/3*IC)/(1+IC)}
+ IC_CRIT = {1/((4*N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ g_m     = {ID/(N_s_N18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ c_gs    = {(2-x)/3*W*L*C_OX_N18 + CGSO_N18*W}
+ c_dg    = {CGSO_N18*W}
+ c_gb    = {W*L*C_OX_N18*(1+x)/3*(N_s_N18-1)/N_s_N18 + CGBO_N18*2*L}
+ c_db    = {CJB0_N18*W*LDS_N18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ IC_i    = {ID*L/W/I_0_N18}                ; Initial estimate of inversion coefficient
+ IC      = {IC_i*sqrt(1+(IC_i/IC_CRIT)**0.8)**1.25}
+ VGS     = {2*N_s_N18*U_T*ln(exp(sqrt(IC_i*(1+IC_i/IC_CRIT)))-1) + Vth_N18}
+ K_F     = {KF_N18*(1+2*N_s_N18*U_T*sqrt(IC)/V_KF_N18)^2}
+ f_ell   = {(f_T*2*pi*K_F*((2-x)/3+(1+x)/3*(N_s_N18-1)/N_s_N18 )/(N_s_N18*Gamma*4*k*T*C_OX_N18))**(1/AF_N18)}
+ x       = {(sqrt(IC + 0.25) + 1.5)/(sqrt(IC + 0.25) + 0.5)^2}
+ chi     = {(2-x)/3+(1+x)*(N_s_N18-1)/N_s_N18/3}
.ends

.subckt MP18_noisyNullor outP outN inP inN ID={ID} IG={IG} W={W} L={L}
* Nullor with input noise sources 
* PMOS intrinsic noise sources, gate resistance should be added externally
* CMOS18 P device noise sources: copy and modify this model for other devices
N1 outP outN int inN N
V1 inP 1 V value=0 noise={chi*K_F/(C_OX_P18*c_iss*f^AF_P18)} ; flicker noise
V2 1 int V value=0 noise={4*k*T*N_s_P18*Gamma/g_m}       ; channel noise
G1 int inN 1 int G value={s*c_iss}                       ; gate-induced channel noise
I1 inP inN I value=0 noise={2*q*IG}                      ; gate shot noise
.param
* device equations MKV model saturated region
+ Gamma   = {(1/2 + 2/3*IC)/(1+IC)}
+ IC_CRIT = {1/((4*N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ g_m     = {-ID/(N_s_P18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ c_gs    = {(2-x)/3*W*L*C_OX_P18 + CGSO_P18*W}
+ c_dg    = {CGSO_P18*W}
+ c_gb    = {W*L*C_OX_P18*(1+x)/3*(N_s_P18-1)/N_s_P18 + CGBO_P18*2*L}
+ c_db    = {CJB0_P18*W*LDS_P18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ IC      = {-ID*L/W/I_0_P18}            ; Initial estimate of inversion coefficient
+ VGS     = {-2*N_s_P18*U_T*ln(exp(sqrt(IC*(1+IC/4/IC_CRIT)))-1)+Vth_P18} 
+ K_F     = {KF_P18*(1+2*N_s_P18*U_T*sqrt(IC)/V_KF_P18)^2}
+ f_ell   = {(f_T*2*pi*K_F*((2-x)/3+(1+x)/3*(N_s_P18-1)/N_s_P18 )/(N_s_P18*Gamma*4*k*T*C_OX_P18))**(1/AF_P18)}
+ x       = {(sqrt(IC + 0.25) + 1.5)/(sqrt(IC + 0.25) + 0.5)^2}
+ chi     = {(2-x)/3+(1+x)*(N_s_P18-1)/N_s_P18/3}
.ends

.subckt MN18_noisyNullor_simple outP outN inP inN ID={ID} IG={IG} W={W} L={L}
* Nullor with input noise sources; fixed Gamma, KF and c_iss
* NMOS intrinsic noise sources, gate resistance should be added externally
* CMOS18 N device noise sources: copy and modify this model for other devices
N1 outP outN int inN N
V1 inP 1 V value=0 noise={K_F/(C_OX_N18^2*W*L*f^AF_N18)} ; flicker noise
V2 1 int V value=0 noise={4*k*T*N_s_N18*Gamma/g_m}       ; channel noise
G1 int inN 1 int G value={s*c_iss}                       ; gate-induced channel noise
I1 inP inN I value=0 noise={2*q*IG}                      ; gate shot noise
.param
* device equations MKV model saturated region
+ Gamma   = {2/3}
+ IC_CRIT = {1/((4*N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ g_m     = {ID/(N_s_N18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ c_gs    = {2/3*W*L*C_OX_N18 + CGSO_N18*W}
+ c_dg    = {CGSO_N18*W}
+ c_gb    = {W*L*C_OX_N18*(N_s_N18-1)/N_s_N18/3 + CGBO_N18*2*L}
+ c_iss   = {c_gs + c_dg + c_gb}
+ f_T     = {g_m/2/pi/c_iss}
+ IC_i    = {ID*L/W/I_0_N18}                ; Initial estimate of inversion coefficient
+ IC      = {IC_i*sqrt(1+(IC_i/IC_CRIT)**0.8)**1.25} ; Better fit with BSIM, whatever it's worth
+ VGS     = {2*N_s_N18*U_T*ln(exp(sqrt(IC_i*(1+IC_i/IC_CRIT)))-1) + Vth_N18}
+ K_F     = {KF_N18}
.ends

.subckt MP18_noisyNullor_simple outP outN inP inN ID={ID} IG={IG} W={W} L={L}
* Nullor with input noise sources; fixed Gamma, KF and c_iss
* NMOS intrinsic noise sources, gate resistance should be added externally
* CMOS18 N device noise sources: copy and modify this model for other devices
N1 outP outN int inN N
V1 inP 1 V value=0 noise={K_F/(C_OX_P18^2*W*L*f^AF_P18)} ; flicker noise
V2 1 int V value=0 noise={4*k*T*N_s_P18*Gamma/g_m}       ; channel noise
G1 int inN 1 int G value={s*c_iss}                       ; gate-induced channel noise
I1 inP inN I value=0 noise={2*q*IG}                      ; gate shot noise
.param
* device equations MKV model saturated region
+ Gamma   = {2/3}
+ IC_CRIT = {1/((4*N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ g_m     = {-ID/(N_s_P18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ c_gs    = {2/3*W*L*C_OX_P18 + CGSO_P18*W}
+ c_dg    = {CGSO_P18*W}
+ c_gb    = {W*L*C_OX_P18*(N_s_P18-1)/N_s_P18/3 + CGBO_P18*2*L}
+ c_iss   = {c_gs + c_dg + c_gb}
+ f_T     = {g_m/2/pi/c_iss}
+ IC      = {-ID*L/W/I_0_P18}                ; Inversion coefficient
+ VGS     = {-2*N_s_P18*U_T*ln(exp(sqrt(IC*(1+IC/IC_CRIT)))-1) + Vth_P18}
+ K_F     = {KF_P18}
.ends

.end
