VampDualStageCScontroller_1
.model M1 M gm={g_m1} go={g_o1} gb={g_b1} cgs={c_gs1}
.model M2 M gm={g_m2} go={g_o2} gb={g_b2} cgs={c_gs2}
.detector V_L
.source V1
M1 1 2 3 0 M1
M2 L 1 0 0 M2
R1 L 3 R value={Z_1} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 3 0 R value={Z_2} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R3 L 0 R value={Z_L} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R4 4 2 R value={Z_s} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
V1 4 0 V value=0 noise=0 dc=0 dcvar=0
.end